US07799798B2
C. Synthesis of 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one
A mixture of 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one (0.15 g, 0.42 mmol), triethylsilane (1.60 mL, 10.0 mmol) and trifluroacetic acid (0.74 mL, 10.0 mmol) was stirred at ambient temperature overnight. The mixture was diluted with ethyl acetate (100 mL), washed with water, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was triturated with diethyl ether to give the title compound as a white solid (not stable, turned to red in the air): MS (ES+) m/z 341.4 (M+1).

reactant | 3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one | 0.42 mmol, 0.15 g | OC1(C(N(C2=C1C=NC=C2)CCCCC)=O)C2=CC1=C(OCO1)C=C2O | C19H20N2O5
reactant | triethylsilane | 10.0 mmol, 1.60 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluroacetic acid | 10.0 mmol, 0.74 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-(6-hydroxy-1,3-benzodioxol-5-yl)-1-pentyl-1,3-dihydro-2H-pyrrolo[3,2-c]pyridin-2-one | OC=1C(=CC2=C(OCO2)C1)C1C(N(C2=C1C=NC=C2)CCCCC)=O | C19H20N2O4
